US05691356
A 1M solution of vinylmagnesium bromide in THF (80 mL, 80 mmol) was added dropwise to a stirred solution of N-methoxy-N-methylphenylacetamide (12.8 g, 71.5 mmol) in distilled tetrahydrofuran (THF) (200 mL), cooled to 0°-5° C. in an ice-water bath. The solution was stirred at 0°-5° C. for 2 h and was then poured into cold 1N HCl solution (150 mL). The THF layer was separated and the aqueous (aq.) layer was extracted with EtOAc (100 mL). Organic extracts were combined, dried (MgSO4), filtered and concentrated. The crude oil was chromatographed on a silica gel column and eluted with 5-20% ethylacetate (EtOAc) in hexanes to obtain title 4-phenyl-but-1-ene-3-one (7.62 g, 73%) as an oil.

reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | N-methoxy-N-methylphenylacetamide | 71.5 mmol, 12.8 g | CON(C(CC1=CC=CC=C1)=O)C | C10H13NO2
reactant | HCl | 1N, 150 mL | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | THF | 80 mmol, 80 mL | O1CCCC1 | C4H8O
product | 4-phenyl-but-1-ene-3-one | 7.62 g, 73% | C1(=CC=CC=C1)CC(C=C)=O | C10H10O
